US06391874B1
(4-Benzyloxy-phenyl)-(6-(3-methyl-[1,2]oxazol-4-yl)-quinazolin-4-yl)-amine
(4-Benzyloxy-phenyl)-(6-iodoquinazolin-4-yl)-amine hydrochloride (0.35 g) in dioxan (10 ml) under nitrogen was treated with 4-tributylstannyl-3-methylisoxazole (prepapred according to the literature method: Heterocycles, (1996), 43(6), 1301-1304) (0.4 g), silver oxide (0.092 g), triethylamine (0.1 ml) and [1.4-bis(diphenylphosphino)butane]palladium (II) chloride (0.1 g) at 90° C. for 16 hours. The mixture was cooled, adsorbed onto silica and purified by chromatography. Trituration from hexane and filtration gave the title compound (0.20 g); δH [2H6]DMSO 9.78(1H,bs), 9.22(l H,s), 8.57(1H,s), 8.53(1H,s), 7.98(1H,d), 7.83(1H,d), 7.67(2H,d), 7.42(5H,m), 7.09(1H,d), 5.64(2H,s) 2.51 (3H,s); m/z (M+1)+ 409.

reactant | (4-Benzyloxy-phenyl)-(6-iodoquinazolin-4-yl)-amine hydrochloride | 0.35 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)I
reactant | 4-tributylstannyl-3-methylisoxazole | C(CCC)[Sn](C=1C(=NOC1)C)(CCCC)CCCC
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
catalyst | silver oxide | 0.092 g | [Ag]=O
product | (4-Benzyloxy-phenyl)-(6-(3-methyl-[1,2]oxazol-4-yl)-quinazolin-4-yl)-amine | 0.20 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1C(=NOC1)C | C25H20N4O2
